US06660744B1
A mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.06 g, 0.00017 mol), 1-methyl-1H-2-imidazolecarboxylic acid (0.056 g, 0.0005 mol), and acetic acid (0.03 g, 0.0005 mol) in dichloroethane (2.5 mL) was stirred at room temperature under an atmosphere of nitrogen for one and a half hours. Sodium triacetoxyborohydride (0.072 g, 0.00034 mol) was added into the mixture and stirred at ambient temperature under an atmosphere of nitrogen for two hours. The solvent was removed under reduced pressure, and the residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 25 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{1-[(1-methyl-1H-2-imidazolyl)methyl]-3-azetanyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.020 g, 0.000044 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00017 mol, 0.06 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | 1-methyl-1H-2-imidazolecarboxylic acid | 0.0005 mol, 0.056 g | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | acetic acid | 0.0005 mol, 0.03 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.00034 mol, 0.072 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2.5 mL | ClC(C)Cl | C2H4Cl2
product | 1-{1-[(1-methyl-1H-2-imidazolyl)methyl]-3-azetanyl}-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000044 mol, 0.020 g | CN1C(=NC=C1)CN1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H24N8O
